US09334278B2
A mixture of 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (1.16 g, 3 mmol), HBTU [1-[bis(dimethylamino)methylene]-1H-benzotriazolium 3-oxide, hexafluorophosphate(1-) (1:1) (1.48 g, 3.9 mmol), N,N-dimethylformamide (12 mL) and triethylamine (0.61 g, 6 mmol) was stirred at room temperature for 1 h, and then tert-butylamine (0.63 mL, 6 mmol) was added. The mixture was stirred an additional hour and then diluted with ethyl acetate, washed once with 0.5 M sodium carbonate, twice with water, once with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by chromatography (silica, 20% ethyl acetate in hexanes) gave 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide (1.22 g, 92%) as a white crystalline solid. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.09 (s, 9H), 0.83 (t, J=8.2 Hz, 2H), 1.43 (s, 9H), 2.71 (s, 3H), 3.54 (t, J=8.2 Hz, 2H), 5.64 (s, 2H), 7.64 (s, 1H), 8.49 (s, 1H).

reactant | 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | 3 mmol, 1.16 g | BrC=1N=C2C(=NC1C)N(C=C2C(=O)O)COCC[Si](C)(C)C | C14H20BrN3O3Si
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium 3-oxide | CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | hexafluorophosphate(1-) | 3.9 mmol, 1.48 g | F[P-](F)(F)(F)(F)F
reactant | triethylamine | 6 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | tert-butylamine | 6 mmol, 0.63 mL | C(C)(C)(C)N | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide | 1.22 g, 92% | C(C)(C)(C)NC(=O)C1=CN(C2=NC(=C(N=C21)Br)C)COCC[Si](C)(C)C | C18H29BrN4O2Si
